US04888439
N-ethyl-N-(2,6,10-trimethyl-14-oxo-2,6,10-pentadecatrienyl)acetamide
Starting materials: 2,6,10-trimethyl-14-oxo-2,6,10-pentadecatrienoic acid; ethylamine (70% aqueous ethylamine solution); and acetic anhydride.

reactant | 2,6,10-trimethyl-14-oxo-2,6,10-pentadecatrienoic acid | CC(C(=O)O)=CCCC(=CCCC(=CCCC(C)=O)C)C | C18H28O3
reactant | ethylamine | C(C)N | C2H7N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N-ethyl-N-(2,6,10-trimethyl-14-oxo-2,6,10-pentadecatrienyl)acetamide | C(C)N(C(C)=O)CC(=CCCC(=CCCC(=CCCC(C)=O)C)C)C | C22H37NO2
